US05015659
a) 2-Thienylglyoxylamide
13.6 g of ammonia are passed into a cooled solution of 73.6 g of ethyl 2-thienylglyoxylate, and the resulting mixture is stirred at room temperature for 2 h. The solvent is stripped off in vacuo, and the residue is recrystallized from water:ethanol (80:20).

reactant | ammonia | 13.6 g | N | H3N
reactant | ethyl 2-thienylglyoxylate | 73.6 g | S1C(=CC=C1)C(C(=O)OCC)=O | C8H8O3S
product | 2-Thienylglyoxylamide | S1C(=CC=C1)C(C(=O)N)=O | C6H5NO2S
